US04737506
After adding at room temperature 4.1 ml of diketene dropwise to 10 g of 3-hydroxypropyl 4-[2-(1-imidazolyl)ethoxy]benzoate dissolved in 300 ml of chloroform, the resultant mixture was stirred for further 18 hours. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography to obtain 10.1 g of 3-[4-[2-(1-imidazolyl)ethoxy]benzoyloxy]propyl acetoacetate as colorless crystals (m.p. 49.5°-51.5° C.; yield: 78%)

reactant | diketene | 4.1 ml | C=C1CC(=O)O1 | C4H4O2
reactant | 3-hydroxypropyl 4-[2-(1-imidazolyl)ethoxy]benzoate | 10 g | N1(C=NC=C1)CCOC1=CC=C(C(=O)OCCCO)C=C1 | C15H18N2O4
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-[4-[2-(1-imidazolyl)ethoxy]benzoyloxy]propyl acetoacetate | 10.1 g, yield: 78% | C(CC(=O)C)(=O)OCCCOC(C1=CC=C(C=C1)OCCN1C=NC=C1)=O | C19H22N2O6
